US07977358B2
B] (trans)-2-Methyl-4-pyrrolidin-1-yl-piperidine dihydrochloride
Treatment of (trans) 2-methyl-4-pyrrolidin-1-yl-piperidine-1-carboxylic acid tert-butyl ester (0.1 g, 0.4 mmol) with 4M hydrochloric acid in dioxane (5 ml) for 1 h and subsequent evaporation of the solvent afforded the title compound (0.06 g, 84%) as a white powder. MS: 169.1 (MH+).

reactant | (trans) 2-methyl-4-pyrrolidin-1-yl-piperidine-1-carboxylic acid tert-butyl ester | 0.4 mmol, 0.1 g | C(C)(C)(C)OC(=O)N1[C@H](C[C@@H](CC1)N1CCCC1)C | C15H28N2O2
reactant | hydrochloric acid | 4M | Cl | ClH
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | (trans)-2-Methyl-4-pyrrolidin-1-yl-piperidine dihydrochloride | 0.06 g, 84% | Cl.Cl.C[C@@H]1NCC[C@H](C1)N1CCCC1 | InChI=1S/C10H20N2.2ClH/c1-9-8-10(4-5-11-9)12-6-2-3-7-12;;/h9-11H,2-8H2,1H3;2*1H/t9-,10+;;/m0../s1
